US04820727
Step (1) Preparation of N-[[2-Chloro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]glycine, 1,1-Dimethylethyl Ester
1-Hydroxybenzotriazole hydrate (2.45 g, 1.5 eq) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.78 g, 1.2 eq) was added to a stirred solution of 2-chloro-6-methoxy-5-(trifluoromethyl)naphthoic acid (3.69 g, 12.11 mmol, prepared by the process of Step 3, Example 12) in dry dimethylformamide (78 mL). After stirring 11/2 hours at room temperature, glycine t-butyl ester hydrochloride (4.06 g, 2 eq) and triethylamine (dried over KOH, 5.8 mL, 3.3 eq) were added. After stirring 3 hours the reaction mixture was diluted with water (1 L) and extracted with ether (3×350 mL). Silica gel was added to the extracts and the solvent was removed. The absorbate was flash chromatographed (70:30 petroleum ether:ethyl acetate) to give the title compound as a white solid (3.95 g, 80%), m.p. 166°-167° C.

reactant | 1-Hydroxybenzotriazole hydrate | 2.45 g, 1.5 eq | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.78 g, 1.2 eq | Cl.CN(CCCN=C=NCC)C
reactant | 2-chloro-6-methoxy-5-(trifluoromethyl)naphthoic acid | ClC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)O | C13H8ClF3O3
reactant | glycine t-butyl ester hydrochloride | 4.06 g, 2 eq | Cl.C(C)(C)(C)OC(CN)=O
reactant | triethylamine | 5.8 mL, 3.3 eq | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 78 mL | CN(C=O)C | C3H7NO
solvent | water | 1 L | O | H2O
product | N-[[2-Chloro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]glycine, 1,1-Dimethylethyl Ester | 3.95 g, 80% | ClC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)NCC(=O)OC(C)(C)C | C19H19ClF3NO4
